US06420566B2
12 g of di-tert-butyl dicarbonate are added, at a temperature in the region of 20° C., to a stirred solution of 7.55 g of 4-hydroxyphenylglycine in 53.2 cm3 of aqueous 1N sodium hydroxide solution and the mixture is then stirred for 4 hours at a temperature in the region of 15° C. After leaving the reaction medium to stand for 16 hours at a temperature in the region of 20° C., it is washed with twice 30 cm3 of diethyl ether. The aqueous phase is separated out after settling of the phases has taken place, and 73 cm3 of aqueous 1M sodium hydrogen sulfate solution are then added thereto with stirring. The mixture is extracted with twice 135 cm3 of dichloromethane. The organic extracts are combined, dried over sodium sulfate and concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. A white foam is obtained, which is taken up in 60 cm3 of water and spin-filtered. The solid obtained is dried under reduced pressure (10 Pa) at a temperature in the region of 20° C. 9.26 g of N-Boc-(4-hydroxyphenyl)glycine are obtained in the form of a white solid melting at 110° C.

reactant | di-tert-butyl dicarbonate | 12 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-hydroxyphenylglycine | 7.55 g | OC1=CC=C(C=C1)NCC(=O)O | C8H9NO3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 60 cm3 | O | H2O
product | N-Boc-(4-hydroxyphenyl)glycine | 9.26 g | C(=O)(OC(C)(C)C)N(CC(=O)O)C1=CC=C(C=C1)O | C13H17NO5
